US06350845B1
37.5 g (0.3mol) of 2,4-dihydroxyaniline, 40.4 g (0.4mol) of triethylamine and 200 ml of water were introduced into a reactor and vigorously stirred under a nitrogen gas stream. 53.0 g (0.3 mol) of pelargonic acid chloride was dissolved in 200 ml of THF (tetrahydrofuran) and the obtained solution was added to the reaction solution as described above. After vigorously stirring, the THF layer was separated by using a separating funnel, dehydrated over anhydrous magnesium sulfate, concentrated to dryness and then purified by recrystallization to thereby give 53.0 g of 2,4-dihydroxybenzanilide octane.

reactant | 2,4-dihydroxyaniline | 0.3mol, 37.5 g | OC1=C(N)C=CC(=C1)O | C6H7NO2
reactant | triethylamine | 0.4mol, 40.4 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
reactant | pelargonic acid chloride | 0.3 mol, 53.0 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | THF | 200 ml | O1CCCC1 | C4H8O
product | 2,4-dihydroxybenzanilide octane | 53.0 g | CCCCCCCC.OC1=C(C(=O)NC2=CC=CC=C2)C=CC(=C1)O | InChI=1S/C13H11NO3.C8H18/c15-10-6-7-11(12(16)8-10)13(17)14-9-4-2-1-3-5-9;1-3-5-7-8-6-4-2/h1-8,15-16H,(H,14,17);3-8H2,1-2H3
